US05359071
15β-methyl-androst-4-ene 3,17-DIone (8)
A 50 mL round bottomed flask is fitted with a stir bar, 26 mL of dry benzene, 2.28 g of (2.1 and 7 mL of cyclohexanone. The flask is fitted with a Dean Stark trap attached to a condenser. The solution is refluxed and 3 mL of solvent is removed (water azeotrope). Then 10 mL more of toluene with 1.44 g (7.1 mmol) of aluminum isopropoxide is added to the flask and 10 mL of distillate is removed by reflux over 2 h. Cool to 65° and add 600mg each of Darco activated charcoal and Celite filter aid with 1 mL of water. Stir for 1 h and filter through a sintered glass funnel and wash the precipitate with 6×15 mL of hot ethyl acetate. Reduce the filtrate volume under reduced pressure and chromatograph the product by flash chromatography with a 4/1 mixture of hexane/ethyl acetate. Recovered product (1.5 g, 5 mmol, 63%) δH (CDCl3) 1.05 (s, 3H), 1.13 (d, J=7 Hz,), 1.22 (s, 3H), 5.73 (d, 1H).

reactant | benzene | 26 mL | C1=CC=CC=C1 | C6H6
reactant | cyclohexanone | 7 mL | C1(CCCCC1)=O | C6H10O
reactant | aluminum isopropoxide | 7.1 mmol, 1.44 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 15β-methyl-androst-4-ene 3,17-DIone | C[C@@H]1CC([C@]2(C)[C@@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C20H28O2
